US06432947B1
Isobutyl chloroformate (226 μL, 1.73 mmol) was added to a solution of N-Boc sarcosine (1.73 mmol) and N-methylmorpholine (192 μL, 1.73 mmol) in THF. After two minutes, piperonylamine (216 mL, 1.73 mmol) was added and the mixture allowed to warm to room temperature. After thirty minutes, the reaction mixture was passed through a bed of Celite and all volatiles were removed under reduced pressure to yield N-Boc sarcosine piperonyl amide (531 mg, 95%) as a white solid. 1H NMR: (CDCl3) δ2.41 (s,3), 3.28 (s,2), 4.39 (d,2), 5.95 (s,2), 6.80 (m,3), 7.43 (bs,1), 9.04 (bs,1).

reactant | Isobutyl chloroformate | 1.73 mmol, 226 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-Boc sarcosine | 1.73 mmol | C(=O)(OC(C)(C)C)N(C)CC(=O)O | C8H15NO4
reactant | N-methylmorpholine | 1.73 mmol, 192 μL | CN1CCOCC1 | C5H11NO
reactant | piperonylamine | 1.73 mmol, 216 mL | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
solvent | THF | C1CCOC1 | C4H8O
product | N-Boc sarcosine piperonyl amide | 531 mg, 95% | C(C1=CC=2OCOC2C=C1)(=O)N.C(=O)(OC(C)(C)C)N(C)CC(=O)O | InChI=1S/C8H15NO4.C8H7NO3/c1-8(2,3)13-7(12)9(4)5-6(10)11;9-8(10)5-1-2-6-7(3-5)12-4-11-6/h5H2,1-4H3,(H,10,11);1-3H,4H2,(H2,9,10)
